US07799775B2
Under argon atmosphere, 17.5 ml of 1.58M n-butyl lithium-n-hexane solution was dropped into a mixture of 25 ml of tetrahydrofuran and 2.78 g of diisopropylamine under cooling ice, followed by 30 minutes' stirring under the same condition. Thereafter a solution of 2.50 g of 1-tert-butoxycarbonyl-3-oxopiperazine (which was prepared by following Tetrahedron Lett., 1980, 21, 3019-3020) in 60 ml of tetrahydrofuran was added by dropping under cooling with ice, followed by 3 hours' stirring under the same condition, further dropping of a solution of 2.30 g of 5-chloromethyl-benzo[1,3]dioxole in 20 ml of tetrahydrofuran under cooling with ice, and an hour's stirring under the same condition. The solution was warmed to room temperature and stirred for 18 hours. After addition of saturated aqueous ammonium chloride solution, the solution was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and the solvent was distilled therefrom under reduced pressure. The residue was purified on silica gel column chromatography (ethyl acetate) to provide 2.84 g (68%) of 2-benzo[1,3]dioxol-5-ylmethyl-1-tert-butoxycarbonyl-3-oxopiperazine.

reactant | n-butyl lithium-n-hexane | 1.58M, 17.5 ml | CCCCCC.C(CCC)[Li]
reactant | diisopropylamine | 2.78 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-tert-butoxycarbonyl-3-oxopiperazine | 2.50 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | 5-chloromethyl-benzo[1,3]dioxole | 2.30 g | ClCC1=CC2=C(OCO2)C=C1 | C8H7ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-benzo[1,3]dioxol-5-ylmethyl-1-tert-butoxycarbonyl-3-oxopiperazine | 2.84 g, 68% | O1COC2=C1C=CC(=C2)CC2N(CCNC2=O)C(=O)OC(C)(C)C | C17H22N2O5
